US08039124B2
2-(2,4-difluorophenyl)-4-dimethylaminopyridine L4
A mixture of 2-iodo-4-dimethylaminopyridine (3 g, 12 mmol), 2,4-difluorophenylboronic acid (2.3 g, 14.5 mmol) and K2CO3 (6 g, 43.5 mmol) in toluene (60 ml) and water (10 ml) were degased with nitrogen for 15 minutes. Pd(PPh3)4 (800 mg, 0.66 mmol) was added and the resulting mixture was heated to 90° C. for 48 hours under nitrogen. After being cooled to room temperature, the aqueous phase was separated and extracted with EtOAc (3×100 ml). The combined organic fractions were washed with brine, dried over MgSO4, filtered and evaporated. The crude compound was purified by column chromatography (SiO2, CHCl3 then CHCl3/MeOH, 97/3) to afford 2.2 g (78%) of the titled compound as a slightly yellow oil, which solidify upon standing. If some impurities remains, the compound can be purified by following the acidic extraction followed by basic recovery as performed before for 2-phenyl-4-dimethylaminopyridine.

reactant | 2-iodo-4-dimethylaminopyridine | 12 mmol, 3 g | IC1=NC=CC(=C1)N(C)C | C7H9IN2
reactant | 2,4-difluorophenylboronic acid | 14.5 mmol, 2.3 g | FC1=C(C=CC(=C1)F)B(O)O | C6H5BF2O2
reactant | K2CO3 | 43.5 mmol, 6 g | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 10 ml | O | H2O
catalyst | Pd(PPh3)4 | 0.66 mmol, 800 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(2,4-difluorophenyl)-4-dimethylaminopyridine | 2.2 g, 78% | FC1=C(C=CC(=C1)F)C1=NC=CC(=C1)N(C)C | C13H12F2N2
